US06436923B1
A. 2-(3-Methoxyphenyl)-N-phenylacetamide
To a solution of 3-methoxyphenylacetyl chloride (2.3 g, 12.5 mmol) in ethyl acetate (30 mL) was added a solution of aniline (1.16 g, 12.5 mmol) in ethyl acetate (30 mL). After 3 hours, the reaction was poured into water (50 mL). The organic layer was separated, dried over MgSO4, filtered and concentrated to provide the title compound (2.67 g, 89% yield): EI-MS (m/z) 241.

reactant | 3-methoxyphenylacetyl chloride | 12.5 mmol, 2.3 g | COC=1C=C(C=CC1)CC(=O)Cl | C9H9ClO2
reactant | aniline | 12.5 mmol, 1.16 g | NC1=CC=CC=C1 | C6H7N
reactant | water | 50 mL | O | H2O
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 2-(3-Methoxyphenyl)-N-phenylacetamide | 2.67 g, 89% yield | COC=1C=C(C=CC1)CC(=O)NC1=CC=CC=C1 | C15H15NO2
